### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): the domain of definition of a rational map

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/RationalMap.lean [hunk 1]
```diff
@@ -230,6 +255,58 @@ lemma equiv_of_fromSpecStalkOfMem_eq [IrreducibleSpace X]
...
+    [IsSeparated (Y ↘ S)] {f g : X.PartialMap Y} (hfg : f.domain = g.domain)
+    [f.IsOver S] [g.IsOver S] : f.equiv g ↔ f = g := by
+  rw [equiv_iff_of_isSeparated_of_le (S := S) f.dense_domain le_rfl hfg.le]
+  obtain ⟨Uf, _, f⟩ := f
+  obtain ⟨Ug, _, g⟩ := g
+  obtain rfl : Uf = Ug := hfg
+  simp
+
+/-- Two partial maps from reduced schemes to separated schemes are equivalent if and only if
+they are equal on the intersection of the domains. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/RationalMap.lean:301]: The docstring should be updated because `f` is a partial map but `g` is a morphism.

File: Mathlib/CategoryTheory/Comma/OverClass.lean [hunk 2]
```diff
@@ -68,27 +68,39 @@ def CanonicallyOverClass.Simps.over (X S : C) [CanonicallyOverClass X S] : X ⟶
...
+-- This cannot be a simp lemma be cause it loops with `comp_over`.
+@[simps (config := .lemmasOnly)]
 instance (priority := 900) [CanonicallyOverClass X Y] [OverClass Y S] : OverClass X S :=
   ⟨X ↘ Y ≫ Y ↘ S⟩
 
 /-- Given `OverClass X S` and `OverClass Y S` and `f : X ⟶ Y`,
 `HomIsOver f S` is the typeclass asserting `f` commutes with the structure morphisms. -/
 class HomIsOver (f : X ⟶ Y) (S : C) [OverClass X S] [OverClass Y S] : Prop where
-  comp_over : f ≫ Y ↘ S = X ↘ S := by simp
+  comp_over : f ≫ Y ↘ S = X ↘ S := by simp; try rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Comma/OverClass.lean:83]: What about `by aesop` instead of `by simp; try rfl`?

**Comment by erdOne** [comment]
bors merge

**Comment by erdOne** [comment]
bors merge
